Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins / Fish
 
Attending: ___.
 
Chief Complaint:
Morbid obesity 
 
Major Surgical or Invasive Procedure:
___: laparoscopic sleeve gastrectomy

 
History of Present Illness:
Per Dr. ___ is a ___ male 
referred for the evaluation of gastric restrictive surgery in 
the treatment and management of morbid obesity by his primary 
care provider ___ of ___ 
___ in ___.  ___ was 
seen and evaluated in our ___ clinic 
___, C6/7, ___, and ___ with follow-up visit on ___.

___ has class III morbid obesity with weight of 390.2 pounds 
as of ___ with his initial screen weight on ___ as 408.9 
pounds, height 70 inches and BMI of 56.  His previous weight 
loss efforts include Weight Watchers, the ___ 
___, ___, self-directed diets with exercise, 
weightloss pills and seeing a registered dietitian for several 
visits through the ___ in 
___ in ___.  He has been able to lose up to 60 pounds 
and his previous weight loss efforts but unable to maintain.  He 
has been struggling with weight since his late teen years. He 
stated that his lowest adult weight was 210 pounds at the age of 
___ and his highest weight was 415 pounds last ___.  
Factors contributing to his excess weight include genetics, 
large
portions, too many carbohydrates and saturated fats, emotional 
and stressful eating, late-night eating and boredom.  For 
exercise he uses an elliptical machine for about 1 hour 7 times 
a week.  He denied history of eating disorders and he denied 
binge eating.  He does have depression with history of bipolar 
including mood swings as well as posttraumatic stress disorder. 
He is followed by a therapist and he has not been 
hospitalizedfor mental health issues.  He used to be on lithium 
over ___ yearsago that was stopped as it was not helpful.  He is 
currently on aripiprazole.
 

 
Past Medical History:
1)  ___ esophagus with gastroesophageal reflux
2)  back pain
3)  hepatic steatosis
4)  hyperlipidemia with elevated triglycerides
5)  vitamin D deficiency
6)  insomnia

His only surgical history is for tonsillectomy and adenoidectomy
as a child.
 
Social History:
___
Family History:
He works as ___ at ___ 
___.  He is married living with his wife who works in ___ 
___ and they have 3 children ages ___, ___ and ___.
 
Physical Exam:
T 98.1 P 82 BP 118/72 02 97%RA
Gen: no acute distress, alert and oriented x 3
Cardiac: regular rate and rhythm, no murmurs appreciated
Resp: clear to auscultation, bilaterally; no respiratory 
distress
Abd: soft, appropriate ___ tenderness without 
rebound tenderness or guarding; abd lap sites with primary 
dressing, clean dry and intact
Ext: no lower extremity edema or tenderness, bilaterally
 
Brief Hospital Course:
Mr. ___ is a ___ with morbid obesity who underwent a 
laparoscopic sleeve gastrectomy on ___.  There were 
no adverse events in the operating room; please see the 
operative note for details. Pt was extubated, taken to the PACU 
until stable, then transferred to the ward for observation.  
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with a preoperative TAP block 
and postoperative acetaminophen, ketorolac and gabapentin. He 
required intermittent doses of opioid for pain control while in 
the PACU.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  
GI/GU/FEN: The patient was initially kept NPO. Afterwards, the 
patient was started on a stage 1 bariatric diet, which the 
patient tolerated well. Subsequently, the patient was advanced 
to stage 2, which was well tolerated.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. 
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.  
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a 
bariatric stage 2 diet, ambulating, voiding without assistance, 
and pain was well controlled. The patient received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lidocaine 5% Patch 1 PTCH TD QAM pain 
2. varenicline 1 mg oral BID 
3. pedi multivitamin ___ 18 mg iron oral DAILY 
4. Sucralfate 1 gm PO QID 
5. Omeprazole 40 mg PO BID 
6. albuterol sulfate 90 mcg/actuation inhalation ASDIR 

 
Discharge Medications:
1.  Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg/20.3 mL 20 ml by mouth every six (6) 
hours Disp #*300 Milliliter Refills:*0 
2.  albuterol sulfate 90 mcg/actuation inhalation ASDIR  
3.  Lidocaine 5% Patch 1 PTCH TD QAM pain  
4.  Omeprazole 40 mg PO BID 
Open capsule, sprinkle contents onto applesauce; swallow 
contents whole.  
5.  pedi multivitamin ___ 18 mg iron oral DAILY  
6.  Sucralfate 1 gm PO QID  
7.  varenicline 1 mg oral BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Morbid obesity

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You have undergone a laparoscopic sleeve gastrectomy, recovered 
in the hospital and are now preparing for discharge to home with 
the following instructions:

Please call your surgeon or return to the Emergency Department 
if you develop a fever greater than ___ F, shaking chills, chest 
pain, difficulty breathing, pain with breathing, cough, a rapid 
heartbeat, dizziness, severe abdominal pain, pain unrelieved by 
your pain medication, a change in the nature or severity of your 
pain, severe nausea, vomiting, abdominal bloating, severe 
diarrhea, inability to eat or drink, foul smelling or colorful 
drainage from your incisions, redness, swelling from your 
incisions, or any other symptoms which are concerning to you.  
Diet: Stay on Stage II diet until your follow up appointment; 
this stage was previously called stage III and consists of 
protein shakes, sugar free smooth pudding/ yogurt, etc; please 
refer to your work book for detailed instructions. Do not self- 
advance your diet and avoid drinking with a straw or chewing 
gum. To avoid dehydration, remember to sip small amounts of 
fluid frequently throughout the day to reach a goal of 
approximately ___ mL per day. Please note the following signs 
of dehydration: dry mouth, rapid heartbeat, feeling dizzy or 
faint, dark colored urine, infrequent urination.  
Medication Instructions:  
Please refer to the medication list provided with your discharge 
paperwork for detailed instruction regarding your home and newly 
prescribed medications.  
Some of the new medications you will be taking include:  
1. Pain medication: You will receive a prescription for liquid 
acetaminophen (Tylenol), do not exceed 3000 mg per 24 hour 
period.  
2. Antacids: You will be taking famotidine tablets, 20 mg twice 
daily, for one month. This medicine reduces stomach acid 
production. Please crush.  
3. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) unless approved by your Weight Loss Surgery team. 
Examples include, but are not limited to Aleve, Arthrotec, 
aspirin, Bufferin, diclofenac, Ecotrin, etodolac, ibuprofen, 
Indocin, indomethacin, Feldene, ketorolac, meclofenamate, 
meloxicam, Midol, Motrin, nambumetone, Naprosyn, Naproxen, 
Nuprin, oxaprozin, Piroxicam, Relafen, Toradol and Voltaren. 
These agents may cause bleeding and ulcers in your digestive 
system. If you are unclear whether a medication is considered an 
NSAID, please ask call your nurse or ask your pharmacist.  
4. Vitamins/ minerals: You may resume a chewable multivitamin, 
however, please discuss when to resume additional vitamin and 
mineral supplements with your bariatric dietitian.  
Activity:  
You should continue walking frequently throughout the day right 
after surgery; you may climb stairs.  
You may resume moderate exercise at your discretion, but avoid 
performing abdominal exercises or lifting items greater than10 
to 15 pounds for six weeks.  
Wound Care:  
You may remove any remaining gauze from over your incisions. You 
will have thin paper strips (Steri-Strips) over your incision; 
please, remove any remaining Steri-Strips seven to 10 days after 
surgery.  
You may shower 48 hours following your surgery; avoid scrubbing 
your incisions and gently pat them dry. Avoid tub baths or 
swimming until cleared by your surgeon.  
If there is clear drainage from your incisions, cover with 
clean, dry gauze.  
Please call the doctor if you have increased pain, swelling, 
redness, cloudy, bloody or foul smelling drainage from the 
incision sites.  
Avoid direct sun exposure to the incision area for up to 24 
months.  
Do not use any ointments on the incision unless you were told 
otherwise.  

 
Followup Instructions:
___